US09120969B2
10.7 g (25.8 mmol) of 5-bromo-2-[(4-bromophenoxy)difluoromethyl]-1,3-difluorobenzene and 8.00 g (81.5 mmol) of hex-5-yn-1-ol are initially introduced in 11.3 ml of triethylamine and 500 ml of toluene, 1.50 g (2 mmol) of bis(triphenylphosphine)palladium(II) chloride and 0.700 g (3.68 mmol) of copper(I) iodide are added, and the mixture is heated under reflux overnight. The batch is subsequently added to water, neutralised using 2 N hydrochloric acid and extracted three times with toluene. The combined org. phases are dried over sodium sulfate, the solvent is removed in vacuo, and the residue is chromatographed on silica gel firstly with toluene and then with toluene/ethyl acetate (4:1), giving 6-(4-{difluoro[4-(6-hydroxyhex-1-ynyl)phenoxy]methyl}-3,5-difluorophenyl)hex-5-yn-1-ol as a colourless solid.

reactant | 5-bromo-2-[(4-bromophenoxy)difluoromethyl]-1,3-difluorobenzene | 25.8 mmol, 10.7 g | BrC=1C=C(C(=C(C1)F)C(F)(F)OC1=CC=C(C=C1)Br)F | C13H6Br2F4O
reactant | hex-5-yn-1-ol | 81.5 mmol, 8.00 g | C(CCCC#C)O | C6H10O
reactant | water | O | H2O
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | triethylamine | 11.3 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
catalyst | bis(triphenylphosphine)palladium(II) chloride | 2 mmol, 1.50 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 3.68 mmol, 0.700 g | [Cu]I
product | 6-(4-{difluoro[4-(6-hydroxyhex-1-ynyl)phenoxy]methyl}-3,5-difluorophenyl)hex-5-yn-1-ol | FC(C1=C(C=C(C=C1F)C#CCCCCO)F)(OC1=CC=C(C=C1)C#CCCCCO)F | C25H24F4O3
